US09120749B2
{6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-[3-(2-(dimethylamino)ethyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure F, {6-Bromo-4-[3-(2-(dimethylamino)ethyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone (54 mg, 0.123 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (50 mg, 0.185 mmol) to afford the desired product (57 mg, 92%) as a yellow solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.44 (s, 1H), 8.21 (dd, J=8.8, 1.9 Hz, 1H), 8.02 (d, J=8.8 Hz, 1H), 7.92 (s, 1H), 7.66-7.57 (m, 1H), 7.54 (d, J=7.7 Hz, 1H), 7.50 (s, 1H), 7.39 (dd, J=7.8, 2.2 Hz, 1H), 7.12 (d, J=11.5 Hz, 1H), 6.96 (s, 1H), 3.40-3.32 (m, 2H), 3.18-3.11 (m, 2H), 2.97-2.86 (m, 8H), 1.26-1.15 (m, 4H); ESI MS m/z 504 [C29H27ClFN3O2+H]+; HPLC 96.4% (AUC), tR=11.15 min.

reactant | {6-Bromo-4-[3-(2-(dimethylamino)ethyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone | 0.123 mmol, 54 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC(=CC=C1)CCN(C)C | C23H24BrN3O
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.185 mmol, 50 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | {6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-[3-(2-(dimethylamino)ethyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone | 57 mg, 92% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC(=CC=C1)CCN(C)C | C29H27ClFN3O2
